US08809363B2
Methyl (2S)-tert-butoxy(4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl)acetate
To a solution of (2S)-tert-butoxy(4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl)acetic acid (Preparation 15, 1.0 g, 2.178 mmol) in dichloromethane (34 mL) was added [(benzotriazol-1-yloxy)-dimethylamino-methylene]dimethyl-ammonium hexafluoro phosphate (1.24 g, 3.266 mmol) and ethyl-di-isopropyl-amine (600 μL, 3.266 mmol) and the resulting reaction mixture was stirred at 30° C. for 2 hours. Methanol (17 mL) was added and the reaction mixture was stirred at 30° C. for 18 hours. The reaction was cooled to room temperature and diluted with dichloromethane (50 mL). The solution was washed with a saturated aqueous solution of sodium hydrogen carbonate (50 mL), water (50 mL) and brine (50 mL). The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography eluting with 5% ethyl acetate in heptane to give the title compound as a white solid, 963 mg, in a 93% yield. 1H NMR (400 MHz, CDCl3) δ ppm 1.22 (s, 9H), 1.85-1.88 (m, 4H), 2.65 (s, 3H), 2.82-2.86 (m, 2H), 3.23-3.26 (m, 2H), 3.68 (s, 3H), 5.94 (s, 1H).

reactant | (2S)-tert-butoxy(4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl)acetic acid | 2.178 mmol, 1.0 g | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)I | C18H22INO3S
reactant | [(benzotriazol-1-yloxy)-dimethylamino-methylene]dimethyl-ammonium hexafluoro phosphate | 3.266 mmol, 1.24 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(N(C)C)=[N+](C)C
reactant | ethyl-di-isopropyl-amine | 3.266 mmol, 600 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | Methanol | 17 mL | CO | CH4O
solvent | dichloromethane | 34 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Methyl (2S)-tert-butoxy(4-iodo-2-methyl-5,6,7,8-tetrahydro[1]benzothieno[2,3-b]pyridin-3-yl)acetate | 93% yield | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)SC1=C2CCCC1)I | C19H24INO3S
